US06936632B2
c) 5-Bromo-6-(4-fluorophenyl)-7-methyl-2,3-dihydro-1H-pyrrolizine
The solution of 6-(4-fluorophenyl)-7-methyl-2,3-dihydro-1H-pyrrolizine (9.0 g, 42 mmol) in abs. THF (50 ml) is cooled to −15° C. N-Bromosuccinimide (3.46 g, 19.4 mmol) is added in portions; the mixture is stirred until no more starting material is detectable (TLC SiO2, diisopropyl ether-hexane 2:1). The black-purple-coloured reaction mixture is chromatographed on a column (20 cm×3 cm) packed with Al2O3 (ICI, for dry packing). The column is subsequently washed with n-hexane (80 ml), and the filtrates are concentrated. 3.55 g (28.9%) of a black-brown oil are obtained, which rapidly decomposes.

reactant | 6-(4-fluorophenyl)-7-methyl-2,3-dihydro-1H-pyrrolizine | 42 mmol, 9.0 g | FC1=CC=C(C=C1)C1=CN2CCCC2=C1C | C14H14FN
reactant | N-Bromosuccinimide | 19.4 mmol, 3.46 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | diisopropyl ether hexane | C(C)(C)OC(C)C.CCCCCC
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-Bromo-6-(4-fluorophenyl)-7-methyl-2,3-dihydro-1H-pyrrolizine | 3.55 g, 28.9% | BrC=1N2CCCC2=C(C1C1=CC=C(C=C1)F)C | C14H13BrFN
